US07220773B2
Preparation for t-butyl (4-iodophenoxy)acetate
The subject compound was prepared starting from 4-iodophenol and t-butyl bromoacetate in the same manner as Reference example 6-1.

reactant | 4-iodophenol | IC1=CC=C(C=C1)O | C6H5IO
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | t-butyl (4-iodophenoxy)acetate | IC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C12H15IO3
